US07524841B2
m-Chloro-perbenzoic acid (3.3 g, 19 mmol) was added to a solution of 6-bromo-2-methylsulfanyl-3H-quinazolin-4-one (2.5 g, 9.2 mmol) in dichloromethane (200 ml), and the mixture was stirred at room temperature for 24 hours. The obtained solution was washed with an aqueous potassium carbonate solution and then concentrated, and the precipitated solid was filtered out and washed with aqueous hydrochloric acid to obtain 6-bromo-2-methylsulfinyl-3H-quinazolin-4-one.

reactant | m-Chloro-perbenzoic acid | 19 mmol, 3.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-bromo-2-methylsulfanyl-3H-quinazolin-4-one | 9.2 mmol, 2.5 g | BrC=1C=C2C(NC(=NC2=CC1)SC)=O | C9H7BrN2OS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 6-bromo-2-methylsulfinyl-3H-quinazolin-4-one | BrC=1C=C2C(NC(=NC2=CC1)S(=O)C)=O | C9H7BrN2O2S
